US04835312
To 200 ml of N,N-dimethylformamide, were added 12 g of acetamide, 105 g of LEVATIT MP-500, which was also used in Example 68, and 32 g of benzylchloride. They were .reacted at 50° C. for 4 hours with stirring. After the reaction, the reaction solution was treated in the same manner as in Example 69, the resulting distillation residue was recrystallized from benzene, thereby providing 22 g of N-benzylacetamide having a melting point of 61°-62° C.

reactant | acetamide | 12 g | C(C)(=O)N | C2H5NO
reactant | benzylchloride | 32 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-benzylacetamide | 22 g | C(C1=CC=CC=C1)NC(C)=O | C9H11NO
